US07825131B2
Step B: 1-[1-(2,4-Dimethoxybenzyl)-4-(3-fluorophenyl)-6-methoxy-2-oxo-1,2-dihydroquinolin-3-yl]pyridinium chloride
A solution of 2-chloro-N-(2,4-dimethoxybenzyl)-N-[2-(3-fluorobenzoyl)-4-methoxyphenyl]acetamide (229 mg, 0.485 mmol) in 3 mL of pyridine was heated to reflux. A precipitate formed while the mixture stirred overnight. After cooling the mixture to room temperature, ether was added (10 mL), and the mixture was cooled further using an ice bath. The suspension was filtered, and the filtrate was washed with cold ether and dried in vacuo to provide the titled salt as a dark brown solid which was used in the next step without further purification. HRMS (ES) exact mass calculated for C30H25FN2O4 (M+): 497.1871. Found 497.1884.

reactant | 2-chloro-N-(2,4-dimethoxybenzyl)-N-[2-(3-fluorobenzoyl)-4-methoxyphenyl]acetamide | 0.485 mmol, 229 mg | ClCC(=O)N(C1=C(C=C(C=C1)OC)C(C1=CC(=CC=C1)F)=O)CC1=C(C=C(C=C1)OC)OC | C25H23ClFNO5
reactant | ether | CCOCC | C4H10O
solvent | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
product | 1-[1-(2,4-Dimethoxybenzyl)-4-(3-fluorophenyl)-6-methoxy-2-oxo-1,2-dihydroquinolin-3-yl]pyridinium chloride | [Cl-].COC1=C(CN2C(C(=C(C3=CC(=CC=C23)OC)C2=CC(=CC=C2)F)[N+]2=CC=CC=C2)=O)C=CC(=C1)OC | InChI=1S/C30H26FN2O4.ClH/c1-35-23-12-13-26-25(17-23)28(20-8-7-9-22(31)16-20)29(32-14-5-4-6-15-32)30(34)33(26)19-21-10-11-24(36-2)18-27(21)37-3;/h4-18H,19H2,1-3H3;1H/q+1;/p-1
